US08871753B2
Step F: tert-Butyl [5-(2-{2-[(tert-butoxycarbonyl)amino]-5-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-3-yl]carbamate
This compound was prepared according to the procedure of Example B19 step E, using tert-butyl [5-(2-{5-amino-2-[(tert-butoxycarbonyl)amino]phenyl}ethyl)pyridin-3-yl]carbamate and 2,4,5-trichloropyrimidine as the starting materials in 43% yield. LCMS calculated for C27H33Cl2N6O4(M+H)+: m/z=575.1, 577.1.

reactant | tert-butyl [5-(2-{5-amino-2-[(tert-butoxycarbonyl)amino]phenyl}ethyl)pyridin-3-yl]carbamate | NC=1C=CC(=C(C1)CCC=1C=C(C=NC1)NC(OC(C)(C)C)=O)NC(=O)OC(C)(C)C | C23H32N4O4
reactant | 2,4,5-trichloropyrimidine | ClC1=NC=C(C(=N1)Cl)Cl | C4HCl3N2
product | tert-Butyl [5-(2-{2-[(tert-butoxycarbonyl)amino]-5-[(2,5-dichloropyrimidin-4-yl)amino]phenyl}ethyl)pyridin-3-yl]carbamate | 43% yield | C(C)(C)(C)OC(=O)NC1=C(C=C(C=C1)NC1=NC(=NC=C1Cl)Cl)CCC=1C=C(C=NC1)NC(OC(C)(C)C)=O | C27H32Cl2N6O4
